US07786165B2
methyl 4′-(benzyloxy)-2′,6,6′-trimethylbiphenyl-3-carboxylate
[4-(Benzyloxy)-2,6-dimethylphenyl]boronic acid (354 mg, 1.38 mmol) and methyl 3-bromo-4-methylbenzoate (229 mg, 1.00 mmol) were dissolved in a mixture of 2 M aqueous sodium carbonate solution (1.38 mL), toluene (10 mL) and 1,2-dimethoxyethane (1 mL), the air was substituted with argon gas, and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (32.8 mg, 0.08 mmol) and tris(dibenzylideneacetone)dipalladium(0) (18.3 mg, 0.02 mmol) were added. The reaction mixture was heated under reflux for one day. After cooling the reaction mixture, brine was added, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane-hexane/ethyl acetate=9/1) to give the title compound (255 mg, yield 71%) as a colorless oil.

reactant | [4-(Benzyloxy)-2,6-dimethylphenyl]boronic acid | 1.38 mmol, 354 mg | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)B(O)O)C | C15H17BO3
reactant | methyl 3-bromo-4-methylbenzoate | 1.00 mmol, 229 mg | BrC=1C=C(C(=O)OC)C=CC1C | C9H9BrO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.08 mmol, 32.8 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | sodium carbonate | 2 M, 1.38 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
solvent | brine | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 mmol, 18.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 4′-(benzyloxy)-2′,6,6′-trimethylbiphenyl-3-carboxylate | 255 mg, yield 71% | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1C)C(=O)OC)C | C24H24O3
